US07923451B2
Step C: 3-(4-Methyl-tetrahydro-pyran-4-yl)-3-oxo-propionic acid ethyl ester.
To a solution of BF3.OEt2 (0.350 mL, 2.50 mmol) and ethyl diazoacetate (0.390 mL, 3.42 mmol) was added a solution of 4-methyl-tetrahydro-pyran-4-carboxaldehyde (350 mg, 2.73 mmol) in CH2Cl2 (15 mL). After 20 min, the mixture was poured into half-saturated aq. NaCl and extracted with CH2Cl2. The combined organic layers were dried and concentrated. Chromatography (EtOAc/hexanes) afforded the title compound (461 mg, 79%) as a colorless oil. MS (ESI): mass calcd. for C11H18O4, 214.1; m/z found, 215.2 [M+H]+. 1H NMR (mixture of tautomers; CDCl3): 12.5 (s, 0.5H), 5.05 (s, 0.5H), 4.25-4.17 (m, 2H), 3.76-3.53 (m, 2H), 5.52 (s, 3H), 2.05-1.92 (m, 2H), 1.56-1.47 (m, 2H), 1.26-1.22 (m, 3H), 1.38-1.34 (m, 3H).

reactant | BF3.OEt2 | 2.50 mmol, 0.350 mL | B(F)(F)F.CCOCC
reactant | ethyl diazoacetate | 3.42 mmol, 0.390 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | 4-methyl-tetrahydro-pyran-4-carboxaldehyde | 2.73 mmol, 350 mg | CC1(CCOCC1)C=O | C7H12O2
reactant | NaCl | [Na+].[Cl-]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Methyl-tetrahydro-pyran-4-yl)-3-oxo-propionic acid ethyl ester | 461 mg, 79% | C(C)OC(CC(=O)C1(CCOCC1)C)=O | C11H18O4
